US09315458B2
1,5-anhydro-2,4-dideoxy-2-(5-methyl-1-oxo-6-(4-(1H-pyrazol-1-yl)benzyl)-1,3-dihydro-2H-isoindol-2-yl)-L-threo-pentitol
To a solution of methyl 5-(4-(1H-pyrazol-1-yl)benzyl)-2-formyl-4-methylbenzoate (0.20 g) in THF (4.00 mL) was added (3S,4S)-3-aminotetrahydro-2H-pyran-4-ol (0.07 g), and the mixture was stirred at room temperature for 4 hr under argon atmosphere. The reaction mixture was concentrated, and the residue was diluted with acetic acid (4.00 mL). Sodium triacetoxyborohydride (0.19 g) was added thereto, and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate, the organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.11 g).

reactant | methyl 5-(4-(1H-pyrazol-1-yl)benzyl)-2-formyl-4-methylbenzoate | 0.20 g | N1(N=CC=C1)C1=CC=C(CC=2C(=CC(=C(C(=O)OC)C2)C=O)C)C=C1 | C20H18N2O3
reactant | (3S,4S)-3-aminotetrahydro-2H-pyran-4-ol | 0.07 g | N[C@H]1COCC[C@@H]1O | C5H11NO2
solvent | THF | 4.00 mL | C1CCOC1 | C4H8O
product | 1,5-anhydro-2,4-dideoxy-2-(5-methyl-1-oxo-6-(4-(1H-pyrazol-1-yl)benzyl)-1,3-dihydro-2H-isoindol-2-yl)-L-threo-pentitol | 0.11 g | CC=1C=C2CN(C(C2=CC1CC1=CC=C(C=C1)N1N=CC=C1)=O)[C@H]1COCC[C@@H]1O | C24H25N3O3
